### PR TITLE
feat: group markings

### PR DESCRIPTION
**Pull request by YaelDillies**
From LeanCamCombi

---

- [x] depends on: #21342

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Marking.lean [hunk 1]
```diff
@@ -0,0 +1,187 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yaël Dillies
+-/
+import Mathlib.Analysis.Normed.Group.Basic
+import Mathlib.GroupTheory.FreeGroup.Basic
+
+/-!
+# Marked groups
+
+This file defines group markings and induces a norm on marked groups.
```
Comment (b-mehta) [inline Mathlib/GroupTheory/Marking.lean:12]: Is there a reference you can give here? I'm not familiar with this definition

Comment (YaelDillies) [reply Mathlib/GroupTheory/Marking.lean:12]: I can't find a reference, but eg [this MathOverflow question](https://mathoverflow.net/questions/141190/topology-of-marked-groups-for-different-number-of-generators) says "A $k$-marked groups is a pair $(G,S)$ where $G$ is a group and $S$ is an ordered set of $k$ generators of $G$." which you can see is the same definition as I have here, only that the set of generators can be extended to give a hom from the free group.

Comment (b-mehta) [reply Mathlib/GroupTheory/Marking.lean]: If there isn't a reference for a definition you wish to add, does it really belong in mathlib?

Comment (YaelDillies) [reply Mathlib/GroupTheory/Marking.lean]: Okay, here's a reference: https://math.huji.ac.il/~perin/Documents/GGT/GGTCourse.pdf, Remark 5.3

Comment (b-mehta) [reply Mathlib/GroupTheory/Marking.lean]: Please add this to the module docstring. It would also be nice to also add the explanation of why you choose a definition different from the one which seems more standard.

File: Mathlib/Geometry/Group/Marking.lean [hunk 2]
```diff
@@ -0,0 +1,186 @@
...
+
+This file defines group markings and induces a norm on marked groups.
+
+## Main declarations
+
+* `GroupMarking G S`: Marking of the group `G` by a type `S`, namely a surjective monoid
+  homomorphism `FreeGroup S →* G`.
+* `MarkedGroup`: If `m : GroupMarking G S`, then `MarkedGroup m` is a type synonym for `G`
+  endowed with the metric coming from `m`.
+* `MarkedGroup.instNormedGroup`: A marked group is normed by its marking.
```
Comment (b-mehta) [inline Mathlib/Geometry/Group/Marking.lean:20]: It would be nice to give here a clearer description of what the metric and norm actually are. Currently the documentation only says that a norm is induced, with no clue as to how they are defined, or what they mean.

File: Mathlib/Geometry/Group/Marking.lean [hunk 3]
```diff
@@ -0,0 +1,186 @@
...
+        obtain ⟨l, rfl, hl⟩ := (find_eq_zero <| mul_aux _).1 (cast_eq_zero.1 hx)
+        rw [le_zero_iff, length_eq_zero, ← FreeGroup.toWord_one] at hl
+        rw [FreeGroup.toWord_injective hl, map_one, map_one] }
+
+namespace MarkedGroup
+
+@[to_additive]
+lemma norm_def [DecidableEq S] (x : MarkedGroup m)
+    [DecidablePred fun n ↦ ∃ l, toMarkedGroup (m l) = x ∧ l.toWord.length = n] :
+    ‖x‖ = Nat.find (mul_aux' x) := by
```
Comment (b-mehta) [inline Mathlib/Geometry/Group/Marking.lean:181]: It's generally not a great idea to have a lemma of this form, where the definition depends on a private lemma. You should instead give properties of the norm which can be useful without referencing private lemmas. For instance, the lemma that there exists a word in the free group with length n which corresponds to x is tricky to prove from the public API. This, and related lemmas (the norm is the smallest n with that property) should be included as part of the norm API.

**Comment by YaelDillies** [comment]
I've realised that I'm basically redoing the content of Analysis.Normed.Group.Quotient for the multiplicative non-abelian group `FreeGroup S`, so I've opened #21341 and #21342.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by YaelDillies** [comment]
I am not sure where this is going anymore. Let's close for now.
